US06479524B1
a. 4-bromo-2.5-dimethylbenzoic acid chloride
10.3 g (45 mmol) of 4-bromo-2,5-dimethylbenzoic acid are dissolved in 250 ml of dichloromethane and after the addition of 9.9 ml of (135 mmol) of thionyl chloride refluxed for two hours. Then the mixture is evaporated to dryness.

reactant | 4-bromo-2,5-dimethylbenzoic acid | 45 mmol, 10.3 g | BrC1=CC(=C(C(=O)O)C=C1C)C | C9H9BrO2
reactant | thionyl chloride | 135 mmol, 9.9 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 4-bromo-2.5-dimethylbenzoic acid chloride | BrC1=CC(=C(C(=O)Cl)C=C1C)C | C9H8BrClO
